US07655664B2
6-(2-Cyclopropylpyrimidin-5-yl)-1,2,3,4-tetrahydro-2,7-naphthridine hydrochloride
A mixture of 2-tert-butyl-6-(2-cyclopropylpyrimidin-5-yl)-1,2,3,4-tetrahydro-2,7-naphthyridine (0.12 g, 0.39 mmol), 1-chloroethyl chloroformate (1.0 mL, 5.8 mmol) and toluene (10 mL) was refluxed for 4 h under protection from moisture (calcium chloride tube). After concentration to dryness, the dark residue was taken up in MeOH (10 mL) and refluxed for 3 h more. Charcoal (1 g) was added and refluxing continued for 20 minutes. Then the mixture was filtered through Celite and the clear filtrate was concentrated to give the title compound (0.12 g) as a solid.

reactant | 2-tert-butyl-6-(2-cyclopropylpyrimidin-5-yl)-1,2,3,4-tetrahydro-2,7-naphthyridine | 0.39 mmol, 0.12 g | C(C)(C)(C)N1CC2=CN=C(C=C2CC1)C=1C=NC(=NC1)C1CC1 | C19H24N4
reactant | 1-chloroethyl chloroformate | 5.8 mmol, 1.0 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | calcium chloride | [Cl-].[Ca+2].[Cl-]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 6-(2-Cyclopropylpyrimidin-5-yl)-1,2,3,4-tetrahydro-2,7-naphthridine hydrochloride | 0.12 g | Cl.C1(CC1)C1=NC=C(C=N1)C=1C=C2CCNCC2=CN1 | InChI=1S/C15H16N4.ClH/c1-2-10(1)15-18-8-13(9-19-15)14-5-11-3-4-16-6-12(11)7-17-14;/h5,7-10,16H,1-4,6H2;1H
